US04000143
Reaction of 2-[2-(2-aminophenyl)-1-methylethyl]-1-methylpiperidine with anisoyl chloride, according to the procedure of Example 25, provides 4-methoxy-2'-[2-methyl-2-(1-methyl-2-piperidyl)-ethyl]benzanilide as a 72:28 mixture of diastereoisomers (according to nmr), m.p. 125.5° - 136.5° C. (corr.).

reactant | 2-[2-(2-aminophenyl)-1-methylethyl]-1-methylpiperidine | NC1=C(C=CC=C1)CC(C)C1N(CCCC1)C | C15H24N2
reactant | anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 4-methoxy-2'-[2-methyl-2-(1-methyl-2-piperidyl)-ethyl]benzanilide | COC1=CC=C(C(=O)NC2=C(C=CC=C2)CC(C2N(CCCC2)C)C)C=C1 | C23H30N2O2
